US08871187B2
2.8 g (9 mmol) of tert-butyl 3-but-2-ynyloxy-3-o-tolyl-azetidine-1-carboxylate are solubilised in 40 ml (120 mmol) of a 3M solution of hydrochloric acid in ethyl acetate. After stirring for 1 hour 30 minutes at ambient temperature, the reaction medium is concentrated under vacuum. 2.2 g of 3-but-2-ynyloxy-3-o-tolylazetidine hydrochloride are obtained in the form of a beige solid with a yield of 96%.

reactant | tert-butyl 3-but-2-ynyloxy-3-o-tolyl-azetidine-1-carboxylate | 9 mmol, 2.8 g | C(C#CC)OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C19H25NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-but-2-ynyloxy-3-o-tolylazetidine hydrochloride | 2.2 g, yield of 96% | Cl.C(C#CC)OC1(CNC1)C1=C(C=CC=C1)C | InChI=1S/C14H17NO.ClH/c1-3-4-9-16-14(10-15-11-14)13-8-6-5-7-12(13)2;/h5-8,15H,9-11H2,1-2H3;1H
